US07465726B2
4-{4-[3-(1H-Imidazol-2-yl)-phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide
Into the solution of 4-{4-[3-(1H-imidazol-2-yl)-phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (59.4 mg, 0.118 mmol) in methanol (1.0 mL) was added HCl in methanol (9 M, 11.0 mL). The above mixture was stirred at rt for 4 h. After that time, the mixture was concentrated in vacuo and was then suspended in DMF (2 mL). Into the above suspension were added triethylamine (159 μL, 1.18 mmol) and tert-butyl isocyanate (14.8 μL, 0.130 mmol). The above mixture was stirred at rt under an atmosphere of N2 for 1 h. After that time, the mixture was concentrated in vacuo to obtain brown oil that was purified by HPLC to yield the title compound. 1H NMR (CD3OD, 400 MHz): δ=1.35 (s, 9H), 2.55 (brs, 2H), 3.59 (t, 2H, J=4.2 Hz), 4.05 (brs, 2H), 6.28 (brs, 1H), 6.65 (s, 1H), 7.13 (d, 2H, J=1.2 Hz), 7.42 (t, 1H, J=8.4 Hz), 7.55 (dd, 1H, J=0.8 & 7.6 Hz), 7.74 (dd, 1H, J=0.8 & 8.0 Hz), 7.75-8.19 (m, 1H), 8.23 (d, 1H, J=1.2 Hz). MS (ES+): m/z 457.12 (100) [MH+]. HPLC: tR=2.00 min (ZQ2000, polar—5 min).

reactant | 4-{4-[3-(1H-imidazol-2-yl)-phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.118 mmol, 59.4 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CC(=CC=C2)C=2NC=CN2)N1 | C25H27N7O2
reactant | HCl | Cl | ClH
reactant | triethylamine | 1.18 mmol, 159 μL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl isocyanate | 0.130 mmol, 14.8 μL | C(C)(C)(C)N=C=O | C5H9NO
solvent | methanol | 1.0 mL | CO | CH4O
solvent | methanol | 9 M, 11.0 mL | CO | CH4O
product | 4-{4-[3-(1H-Imidazol-2-yl)-phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CC(=CC=C2)C=2NC=CN2)N1 | C25H28N8O
